US04465508
A mixture of sodium hydride (2.3 g, 50% dispersion in mineral oil, prewashed with petroleum, b.p. 40°-60°) and 4-hydroxy-2-methylbenzoic acid (3.4 g) in dry N,N-dimethylformamide (30 ml) was stirred for thirty minutes, then treated with 3-chloro-4-fluorobenzotrifluoride (4.5 g). The mixture was heated at 130° for five hours, cooled, diluted with water, acidified with 2N hydrochloric acid and extracted with ethyl acetate. The extracts were washed with water and brine, dried and evaporated. The residue was recrystallised from petroleum (b.p. 80°-100°) to give 2-methyl-5(2-chloro-4-trifluoromethylphenoxy)-benzoic acid (2.06 g, m.p. 113°). A suspension of this material (1.34 g) in thionyl chloride (5 ml) was heated under reflux for one hour and the excess reagent removed in vacuo. The residue was dissolved in acetonitrile and again evaporated to give crude acid chloride.

reactant | sodium hydride | 2.3 g | [H-].[Na+]
reactant | 4-hydroxy-2-methylbenzoic acid | 3.4 g | OC1=CC(=C(C(=O)O)C=C1)C | C8H8O3
reactant | 3-chloro-4-fluorobenzotrifluoride | 4.5 g | ClC=1C=C(C=CC1F)C(F)(F)F | C7H3ClF4
reactant | hydrochloric acid | 2N | Cl | ClH
reactant | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-methyl-5(2-chloro-4-trifluoromethylphenoxy)-benzoic acid | 2.06 g | CC1=C(C(=O)O)C=C(C=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl | C15H10ClF3O3
